US06008196
c) Preparation of H-Val-Pro-Val-CF2CF2CF3.hydrochloride
Bubble HCl gas into a stirred solution of Boc-Val-Pro-Val-CF2CF2CF3 (0.21 g, 0.37 mmol) in ethyl acetate (50 mL) and cool in an ice water bath. Treat with hydrogen chloride gas for 4 minutes. Stir the reaction mixture for 1 hour and warm to ambient temperature. Concentrate the reaction mixture and azeotrope with CCl4. Place under a high vacuum to give the title compound as a white solid. (Yield: 185 mg, 100%).

reactant | HCl | Cl | ClH
reactant | Boc-Val-Pro-Val-CF2CF2CF3 | 0.37 mmol, 0.21 g | N([C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)C(F)(F)C(F)(F)C(F)(F)F)CCC1)C(=O)OC(C)(C)C | C23H34F7N3O5
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | H-Val-Pro-Val-CF2CF2CF3.hydrochloride | N[C@@H](C(C)C)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)C(F)(F)C(F)(F)C(F)(F)F)CCC1.Cl | InChI=1S/C18H26F7N3O3.ClH/c1-8(2)11(26)15(31)28-7-5-6-10(28)14(30)27-12(9(3)4)13(29)16(19,20)17(21,22)18(23,24)25;/h8-12H,5-7,26H2,1-4H3,(H,27,30);1H/t10-,11-,12-;/m0./s1
